US07329662B2
5-(2-Chloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carbonitrile
Reaction of 1-(2-chloro-phenyl)-4,4,4-trifluoro-butane-1,3-dione (251 mg, 1.0 mmol), prepared from commercially available 2-chloro-acetophenone according to general procedure A, and 3-amino-4-cyano-pyrazole (108 mg, 1.0 mmol) according to general procedure B yielded the title compound as an off-white solid (73 mg, 23%). MS (ISP) 323.1 [(M+H)+]; mp 169° C.

reactant | 1-(2-chloro-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 1.0 mmol, 251 mg | ClC1=C(C=CC=C1)C(CC(C(F)(F)F)=O)=O | C10H6ClF3O2
reactant | 2-chloro-acetophenone | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | 3-amino-4-cyano-pyrazole | 1.0 mmol, 108 mg | NC1=NNC=C1C#N | C4H4N4
product | 5-(2-Chloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 73 mg, 23% | ClC1=C(C=CC=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#N | C14H6ClF3N4
